US08314091B2
B: 3-((4-(4-Amino-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide
To a suspension of iron (O) powder (3.3 g, 58.76 mmol) and N-tert butyl-3-((4-(2-fluoro-4-nitrobenzoyl)piperazin-1-yl)methyl)benzamide (2.6 g, 5.88 mmol) in propan-2-ol (75 mL) was added 1M aqueous hydrochloric acid (8.8 mL, 8.1 mmol). The reaction was stirred at room temperature for 2.5 hours, filtered through dicalite and concentrated under vacuum. The residue was dissolved in methanol and purified by strong cation exchange chromatography, eluting macroporous polystyrene sulfonic acid with 2M ammonia in methanol. The resulting solution was concentrated under vacuum to afford the title compound as a viscous orange oil (2.2 g).

reactant | N-tert butyl-3-((4-(2-fluoro-4-nitrobenzoyl)piperazin-1-yl)methyl)benzamide | 5.88 mmol, 2.6 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=C(C=C(C=C1)[N+](=O)[O-])F)=O)=O | C23H27FN4O4
reactant | hydrochloric acid | 8.1 mmol, 1M, 8.8 mL | Cl | ClH
solvent | propan-2-ol | 75 mL | CC(C)O | C3H8O
catalyst | iron | [Fe] | Fe
product | 3-((4-(4-Amino-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 2.2 g | NC1=CC(=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)F | C23H29FN4O2
